US07094801B2
4-{3E-[2-(3-Hydroxy-2-hydroxymethyl-propoxy)-4-methoxy-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide
2-(3-Hydroxy-2-hydroxymethyl-propoxy)-4-methoxy-5-thiophen-2-yl-benzaldehyde (Ex-64B) (8.0 g, 24.8 mmol) and 4-acetylbenzenesulfonamide (4.9 g, 24.8 mmol) were dissolved in a dimethylformamide-methanol solution (170 mL, 7:3). After complete dissolution, lithium methoxide (3.8 g, 99.2 mmol) was added and the resulting red-orange slurry was stirred in the dark at room temperature for 3 h. Upon completion, as determined by HPLC, the mixture was diluted with water (500 mL) and extracted with ethyl acetate (6×200 mL). The combined organic extracts were dried over sodium sulfate and evaporated to dryness. The crude oil was taken up in ethanol (150 mL) and warmed to 60° C. to obtain complete dissolution and allowed to cool to room temperature. The resulting precipitate was collected on filter paper and dried in vacuo to yield 7.0 g (60%) of the title compound as a light orange solid, mp 123–124° C. 1H-NMR (300 MHz, DMSO-d6) δ 8.25–8.29 (m, 3H), 7.90–8.11 (m, 4H), 7.66 (d, 1H, J=3.0 Hz), 7.56 (brs, 1H), 7.52 (d, 1H, J=5.1 Hz), 7.13 (dd, 1H, J=5.1, 3.0 Hz), 6.88 (s, 1H), 4.67 (t, 2H, J=10.8 Hz), 4.24 (d, 2H, J=6.0 Hz), 4.00 (s, 3H), 3.54–3.65 (m, 4H), 2.09–2.13 (m, 1H). MS (ESI) m/z=504 ([M+H]+, 100%). Anal. Calcd. C24H25NO7S2H2O: C, 57.24; H, 5.00; N, 2.78; S, 12.73. Found: C, 56.72; H, 5.27; N, 2.71; S, 12.11.

reactant | 2-(3-Hydroxy-2-hydroxymethyl-propoxy)-4-methoxy-5-thiophen-2-yl-benzaldehyde | 24.8 mmol, 8.0 g | OCC(COC1=C(C=O)C=C(C(=C1)OC)C=1SC=CC1)CO | C16H18O5S
reactant | 4-acetylbenzenesulfonamide | 24.8 mmol, 4.9 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | lithium methoxide | 99.2 mmol, 3.8 g | C[O-].[Li+]
solvent | dimethylformamide methanol | 170 mL | CN(C=O)C.CO
solvent | water | 500 mL | O | H2O
product | 4-{3E-[2-(3-Hydroxy-2-hydroxymethyl-propoxy)-4-methoxy-5-thiophen-2-yl-phenyl]-acryloyl}-benzenesulfonamide | 7.0 g, 60% | OCC(COC1=C(C=C(C(=C1)OC)C=1SC=CC1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)CO | C24H25NO7S2
